US07786114B2
The product is prepared by following the procedure described in example 34, stage (k), starting with 0.03 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(4-morpholin-4-yl-benzyl)amine instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34, stage (k) and 0.18 cm3 of 5N potassium hydroxide. 0.013 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(4-morpholin-4-yl-benzyl)amine is obtained with the following characteristics:

reactant | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(4-morpholin-4-yl-benzyl)amine | 0.03 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCC1=CC=C(C=C1)N1CCOCC1)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C36H38N6O5S
reactant | potassium hydroxide | 5N, 0.18 cm3 | [OH-].[K+]
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(4-morpholin-4-yl-benzyl)amine | 0.013 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCC1=CC=C(C=C1)N1CCOCC1)N2)OC | C29H32N6O3
